US06346635B1
Chlorodiphenyl-1-(9-fluorenyl)silane (2a)
80 g (0.48 mol) of fluorine and 160 ml of toluene/12.8 ml (0.12 mol) of dimethoxyethane (DME) were placed in a reaction vessel and admixed with 182 ml (0.48 mol) of a 20% strength solution of butyllithium in toluene. The suspension was stirred for another 2 hours at 50° C. The suspension was diluted with 800 ml of heptane, cooled to −10° C. and 182 g (0.72 mol) of diphenyldichlorosilane were added all at once to the suspension.

reactant | fluorine | 0.48 mol, 80 g | FF | F2
reactant | dimethoxyethane | C(OC)COC | C4H10O2
reactant | butyllithium | C(CCC)[Li]
reactant | diphenyldichlorosilane | 0.72 mol, 182 g | C1(=CC=CC=C1)[Si](Cl)(Cl)C1=CC=CC=C1 | C12H10Cl2Si
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | heptane | 800 ml | CCCCCCC | C7H16
solvent | toluene | 0.12 mol, 160 ml | C1(=CC=CC=C1)C | C7H8
product | Chlorodiphenyl-1-(9-fluorenyl)silane | Cl[Si](C1C2=CC=CC=C2C=2C=CC=CC12)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H19ClSi
